US06518283B1
Ethyl (E)-3-{4-[(tert-Butoxycarbonyl)amino]phenyl}-2-propenoate
Ethyl 4-aminocinnamate (2.5 g, 13.1 mmol) was dissolved in THF (25 ml) and treated with di-tert-butyl dicarbonate (3.14 g). The solution was refluxed for 16 h and then allowed to cool. The product was extracted into EtOAc and washed with water and brine, dried over Na2SO4, filtered and the solvent removed. The crude product was purified by column chromatography (SiO2; EtOAc/hexane 1:9) to give the title compound (2.82 g, 74%) as a white solid. δH (CDCl3)7.62 (1H, d, J 16.0 Hz), 7.45 (2H, d, J 8.8 Hz), 7.38 (2H, d, J 8.8 Hz), 6.63 (1H, br s), 6.33 (1H, d, J 16.0 Hz), 4.12 (2H, q, J 7.1 Hz), 1.52 (9H, s), 1.25 (3H, t, J 7.1 Hz). m/z (ES+, 70V) 314 (MNa+).

reactant | Ethyl 4-aminocinnamate | 13.1 mmol, 2.5 g | NC1=CC=C(C=CC(=O)OCC)C=C1 | C11H13NO2
reactant | di-tert-butyl dicarbonate | 3.14 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | Ethyl (E)-3-{4-[(tert-Butoxycarbonyl)amino]phenyl}-2-propenoate | 2.82 g, 74% | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)/C=C/C(=O)OCC | C16H21NO4
